US09303065B2
3A. Methyl 2-phenylthiazole-4-carboxylate
A solution of benzothioamide (4.0 g, 29.2 mmol) in THF (80 mL) was treated dropwise with ethyl bromopyruvate (7.6 g, 39 mmol) and heated at reflux for 18 hours. The reaction was then concentrated under vacuum, diluted with ethyl acetate, washed with water (1×), brine (1×) and dried over anhydrous magnesium sulfate. The residue obtained after concentration was purified by silica gel chromatography (4.5×11 cm, 20% AcOEt/toluene), followed by a second purification with 20% AcOEt/hexane. The title material was obtained after concentration as a yellow oil (5.25, 77%). 1H NMR (CDCl3, 400 MHz): 8.14 (s, 1H) 8.00 (m, 2H) 7.46-7.42 (m, 3H) 4.43 (q, J=7.0 Hz, 2H) 1.42 (t, J=7.3 Hz, 3H).

reactant | benzothioamide | 29.2 mmol, 4.0 g | C(C1=CC=CC=C1)(N)=S | C7H7NS
reactant | ethyl bromopyruvate | 39 mmol, 7.6 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | Methyl 2-phenylthiazole-4-carboxylate | C1(=CC=CC=C1)C=1SC=C(N1)C(=O)OC | C11H9NO2S
